US05075435
To a solution of (3S,4S)-4-(1-chloromethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone (100 g) in dimethylsulfoxide (800 ml) and water (200 ml) were added cuprous oxide (57.6 g) and p-toluenesulfonic acid (107 g), and the resultant mixture was stirred at 50° C. for 1.5 hours and then cooled down with ice-cooling. Brine (3 liters), 2 N hydrochloric acid (1 liter), ethyl acetate (2 liters) and diethyl ether (2 liters) were poured into the reaction mixture, followed by stirring for 0.5 hour. The aqueous layer was extracted with a mixture of ethyl acetate (1 liter) and diethyl ether (1 liter). The combined extracts were washed successively with brine (2 liters), 5% sodium bicarbonate (2 liters) and brine (2 liters) and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-(1-hydroxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone.

reactant | (3S,4S)-4-(1-chloromethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | 100 g | ClCC(=C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C16H18ClNO4
reactant | p-toluenesulfonic acid | 107 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloric acid | 2 N, 1 liter | Cl | ClH
reactant | ethyl acetate | 2 liters | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 800 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
solvent | Brine | 3 liters | [Cl-].[Na+].O
solvent | diethyl ether | 2 liters | C(C)OCC | C4H10O
product | (3S,4S)-4-(1-hydroxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | OCC(=C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C16H19NO5
